** sch_path: /foss/pdks/ihp-sg13g2/libs.tech/xschem/sg13g2_tests/sg13g2_IOPad_tb.sch
.subckt sg13g2_IOPad_tb

V1 VDD3V3 VSS3V3 3.3
V2 VDD1V5 VSS1V5 1.5
V3 VSS3V3 GND -0.05
V4 pad1 GND 1.5
V5 p2c1_pad GND 3.3
R1 p2c1 GND 100k
R4 c2p3_pad GND 100k
V7 c2p3 GND 1.5
V9 VSS1V5 GND 0.05
R6 c2p2_pad GND 100k
V10 c2p2 GND 1.5
R7 c2p1_pad GND 100k
V11 c2p1 GND 1.5
RR9 GND sub! ptap1 A=6.084e-13 P=3.12e-06
x1 VSS1V5 VDD1V5 VSS3V3 VDD3V3 pad1 padres1 sg13g2_IOPadAnalog
x2 VSS1V5 VDD1V5 VSS3V3 VDD3V3 p2c1 p2c1_pad sg13g2_IOPadIn
x3 VSS1V5 VDD1V5 VSS3V3 VDD3V3 sg13g2_IOPadIOVdd
x4 VSS1V5 VDD1V5 VSS3V3 VDD3V3 sg13g2_IOPadIOVss
x5 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p3 c2p3_pad sg13g2_IOPadOut4mA
x6 VSS1V5 VDD1V5 VSS3V3 VDD3V3 sg13g2_IOPadVdd
x7 VSS1V5 VDD1V5 VSS3V3 VDD3V3 sg13g2_IOPadVss
x8 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p2 c2p2_pad sg13g2_IOPadOut16mA
x9 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p1 c2p1_pad sg13g2_IOPadOut30mA
R2 padres1 GND 100k
R3 pad1 GND 100k
x10 VSS1V5 VDD1V5 VSS3V3 VDD3V3 p2c7 c2p7 c2p7 c2p7_pad sg13g2_IOPadInOut30mA
x11 VSS1V5 VDD1V5 VSS3V3 VDD3V3 p2c8 c2p8 c2p8 c2p8_pad sg13g2_IOPadInOut16mA
x12 VSS1V5 VDD1V5 VSS3V3 VDD3V3 p2c9 c2p9 c2p9 c2p9_pad sg13g2_IOPadInOut4mA
x13 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p4 c2p4 c2p4_pad sg13g2_IOPadTriOut30mA
x14 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p5 c2p5 c2p5_pad sg13g2_IOPadTriOut16mA
x15 VSS1V5 VDD1V5 VSS3V3 VDD3V3 c2p6 c2p6 c2p6_pad sg13g2_IOPadTriOut4mA
V6 c2p4 GND 1.5
V8 c2p5 GND 1.5
V12 c2p6 GND 1.5
V13 c2p7 GND 1.5
V14 c2p8 GND 1.5
V15 c2p9 GND 1.5
R5 c2p4_pad GND 100k
R8 c2p5_pad GND 100k
R10 c2p6_pad GND 100k
R11 c2p7_pad GND 100k
R12 c2p8_pad GND 100k
R13 c2p9_pad GND 100k
R14 p2c7 GND 100k
R15 p2c8 GND 100k
R16 p2c9 GND 100k
**** begin user architecture code


.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15 chgtol=1e-11
.control

set nostepsizelimit

save all

* Operating Point Analysis
op
remzerovec
write sg13g2_IOPad_tb.raw
set appendwrite

* Transient Analysis
tran 10p 1n
write sg13g2_IOPad_tb.raw

* Plotting
plot VDD3V3 VSS3V3 VDD1V5 VSS1V5

* Analog
plot pad1 padres1

* In
plot p2c1 p2c1_pad

* InOut
plot c2p9 c2p9_pad p2c9
plot c2p8 c2p8_pad p2c8
plot c2p7 c2p7_pad p2c7

* TriOut
plot c2p6 c2p6_pad
plot c2p5 c2p5_pad
plot c2p4 c2p4_pad

* Out
plot c2p3 c2p3_pad
plot c2p2 c2p2_pad
plot c2p1 c2p1_pad

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.lib cornerDIO.lib dio_tt



.include diodes.lib
.include /foss/designs/ihp-open-pdk-regression/IOPADS/netlist/sg13g2_io_upstream.spi


**** end user architecture code
.ends
.GLOBAL GND
.GLOBAL sub!
